US05198438
Step 1: Preparation of 2-pentyl-5-(t-butylsulfonamido)thiophene (scheme II 11, compound 11a, R12 =(CH2)4CH3).
To a solution of 2-(t-butylsulfonamido)thiophene (3.42 g, 15.6 mmol) in anhydrous THF coole to -78° C. under N2 was added 2.5M n-BuLi (15.6 mL, 2.5 equiv). The reaction was warmed to -20° C. over 3.5 h After stirring at -20° C. for an addional h, iodopentane (2.4 mL, 1.2 equiv) was added. The ice bath was removed and the reaction was stirred at rt overnight. The next day the reaction was quenched with sat'd NH4Cl solution and the THF was removed in vacuo. The residue was extracted with Et2O/EtOAc and washed with water and brine. The organic was dried over anhydrous MgSO4 and concentrated in vacuo. The product was purified by flash chromatography on a silica column eluting with Hex/EtOAc (15:1). Removal of the solvent afforded 2.72 g (60%) of the titled compound as a yellow oil. Rf=0.4 (6:1 Hex/EtOAc).

reactant | 2-(t-butylsulfonamido)thiophene | 15.6 mmol, 3.42 g | C(C)(C)(C)S(=O)(=O)NC=1SC=CC1 | C8H13NO2S2
reactant | n-BuLi | 2.5M, 15.6 mL, 2.5 equiv | [Li]CCCC
reactant | iodopentane | 2.4 mL, 1.2 equiv | ICCCCC | C5H11I
solvent | THF | C1CCOC1 | C4H8O
product | 2-pentyl-5-(t-butylsulfonamido)thiophene | 2.72 g, 60% | C(CCCC)C=1SC(=CC1)NS(=O)(=O)C(C)(C)C | C13H23NO2S2
